US07767675B2
Step 2. [(4-methoxyphenyl)thio]acetaldehyde
1-[(2,2-Dimethoxyethyl)thio]-4-methoxybenzene (11.0 g) was dissolved in 1% aqueous hydrochloric acid (60 mL) and acetone (30 mL). The reaction mixture was refluxed for 2 h. Acetone was removed under reduced pressure and the residue was neutralized with aqueous sodium bicarbonate and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel with 20% ethyl acetate in hexanes to afford the desired product (8.5 g, 97%). 1H-NMR (400 MHz, CDCl3): 9.55 (t, J=4.2 Hz, 1H), 7.36 (m, 2H), 6.84 (m, 2H), 3.79 (s, 3H), 3.40 (d, J=4.2 Hz, 2H).

reactant | 1-[(2,2-Dimethoxyethyl)thio]-4-methoxybenzene | 11.0 g | COC(CSC1=CC=C(C=C1)OC)OC | C11H16O3S
solvent | hydrochloric acid | 60 mL | Cl | ClH
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | [(4-methoxyphenyl)thio]acetaldehyde | 8.5 g, 97% | COC1=CC=C(C=C1)SCC=O | C9H10O2S
